US07807676B2
Part B: To a solution of tert-butyl 4-(phenylcarbamoyl)piperidine-1-carboxylate (4.24 g, 13.9 mmol) and diisopropylazodicarboxylate (5.40 mL, 27.9 mmol) in tetrahydrofuran (100 mL) at 25° C. was added triphenylphosphine (7.31 g, 27.9 mmol). The resulting reaction mixture showed a slight exotherm, and the solution then was stirred at ambient temperature for ˜0.25 h until the reaction mixture had returned to 25° C. To the resulting mixture was added azidotrimethylsilane (3.65 mL, 27.9 mmol). A precipitate formed within minutes, and the mixture then was stirred at 25° C. for 7 days. The reaction mixture was concentrated under vacuum to afford the crude product. Column chromatography on silica gel (elution: 10-50% ethyl acetate/hexane) afforded tert-butyl 4-(1-phenyl-1H-tetrazol-5-yl)piperidine-1-carboxylate (2.58 g) as a white solid, following crystallization from a mixture of 1-chlorobutane/hexane; 1H NMR (300 MHz, CDCl3) δ 7.58 (m, 3H), 7.38 (m, 2H), 4.12 (m, 2H), 2.98 (m, 1H), 2.76 (m, 2H), 1.96-1.74 (m, 4H), 1.42 (s, 9H).

reactant | tert-butyl 4-(phenylcarbamoyl)piperidine-1-carboxylate | 13.9 mmol, 4.24 g | C1(=CC=CC=C1)NC(=O)C1CCN(CC1)C(=O)OC(C)(C)C | C17H24N2O3
reactant | diisopropylazodicarboxylate | 27.9 mmol, 5.40 mL | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
reactant | triphenylphosphine | 27.9 mmol, 7.31 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azidotrimethylsilane | 27.9 mmol, 3.65 mL | N(=[N+]=[N-])[Si](C)(C)C | C3H9N3Si
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | tert-butyl 4-(1-phenyl-1H-tetrazol-5-yl)piperidine-1-carboxylate | 2.58 g | C1(=CC=CC=C1)N1N=NN=C1C1CCN(CC1)C(=O)OC(C)(C)C | C17H23N5O2
